US08110585B2
5-chloro-2-methyl-2H-indazole-4-carbaldehyde
To a solution of dimethyl sulfoxide (5.70 mL, 80.0 mmol) in dichloromethane (100 mL) was added oxalyl chloride (3.51 mL, 40.1 mmol) at −78° C., and the mixture was stirred for 30 min. To the reaction mixture was added a solution of (5-chloro-2-methyl-2H-indazol-4-yl)methanol (2.63 g, 13.4 mmol) in dichloromethane (34 mL), and the mixture was stirred for 2 hr. To the reaction mixture was added triethylamine (16.9 mL, 120 mmol) at −78° C., and the mixture was stirred for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/4) to give the title compound (2.20 g, yield 85%).

reactant | dimethyl sulfoxide | 80.0 mmol, 5.70 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 40.1 mmol, 3.51 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (5-chloro-2-methyl-2H-indazol-4-yl)methanol | 13.4 mmol, 2.63 g | ClC1=C(C2=CN(N=C2C=C1)C)CO | C9H9ClN2O
reactant | triethylamine | 120 mmol, 16.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 34 mL | ClCCl | CH2Cl2
product | 5-chloro-2-methyl-2H-indazole-4-carbaldehyde | 2.20 g, yield 85% | ClC1=C(C2=CN(N=C2C=C1)C)C=O | C9H7ClN2O
